US04163846
3,5-Diamino-4-cyanopyrazole (6.1 g) was dissolved in 1 M sodium hydroxide solution (50 ml), and dimethylsulphate (6.2 g) was added. The mixture was heated at reflux for 21/2 hours and then evaporated to dryness. The residue was extracted with 2-methoxyethanol, and the extracts were evaporated. The residue was triturated with a small amount of water to give 3,5-diamino-4-cyano-1-methylpyrazole (1.4 g), m.p. 194°-196° C.

reactant | 3,5-Diamino-4-cyanopyrazole | 6.1 g | NC1=NNC(=C1C#N)N | C4H5N5
reactant | dimethylsulphate | 6.2 g | COS(=O)(=O)OC | C2H6O4S
solvent | sodium hydroxide | 1 M, 50 ml | [OH-].[Na+]
product | 3,5-diamino-4-cyano-1-methylpyrazole | 1.4 g | NC1=NN(C(=C1C#N)N)C | C5H7N5
